US08623889B2
Step 1: 1-(2-chloro-5-((5-fluoro-2-methylphenyl)ethynyl)pyridin-4-yl)ethanone
To a solution of 2-chloro-5-((5-fluoro-2-methylphenyl)ethynyl)isonicotinaldehyde (705 mg, 2.6 mmol) in tetrahydrofuran (11 mL) cooled at −15° C. was added a solution of 3.0M methylmagnesium chloride in tetrahydrofuran (1 mL, 3.1 mmol) dropwise over 1 minute. The reaction mixture was stirred at this temperature for 15 minutes and then quenched with a few drops of saturated aqueous ammonium chloride solution, tetrahydrofuran was evaporated in vacuo, and the resulting residue was redissolved in dichloromethane (50 mL) and washed with water (50 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a colorless oil that was redissolved in dichloromethane (10 mL) and treated with Dess-Martin periodinane (1.4 g, 3.4 mmol). The reaction mixture was stirred at room temperature for 1 hour, and then diluted with dichloromethane (100 mL) and washed with saturated aqueous sodium bicarbonate solution (50 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 40 g, ISCO, 0-50% ethyl acetate in heptane) to afford the title compound as a pale yellow solid (700 mg, 90%), which was used in the next step without further purification.

reactant | 2-chloro-5-((5-fluoro-2-methylphenyl)ethynyl)isonicotinaldehyde | 2.6 mmol, 705 mg | ClC=1C=C(C=O)C(=CN1)C#CC1=C(C=CC(=C1)F)C | C15H9ClFNO
reactant | methylmagnesium chloride | 3.0M | C[Mg]Cl
reactant | Dess-Martin periodinane | 3.4 mmol, 1.4 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | tetrahydrofuran | 11 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 3.1 mmol, 1 mL | O1CCCC1 | C4H8O
product | 1-(2-chloro-5-((5-fluoro-2-methylphenyl)ethynyl)pyridin-4-yl)ethanone | 700 mg, 90% | ClC1=NC=C(C(=C1)C(C)=O)C#CC1=C(C=CC(=C1)F)C | C16H11ClFNO
